US06992211B2
Kinetic Conversion of SR58611A Polymorphic Mixture to B Form
Polymorphic SR58611 hydrochloride (4.46 g) is suspended at ambient temperature in 0.3 liter of propan-2-ol. After maintaining for 70 h under isothermal conditions, the suspension is composed of SR58611A hydrochloride, B form, >96%. IR spectrum and X-ray diffraction are in agreement.

reactant | SR58611 hydrochloride | 4.46 g | CCOC(=O)COC1=CC2=C(CC[C@@H](C2)NC[C@@H](C3=CC(=CC=C3)Cl)O)C=C1.Cl
solvent | propan-2-ol | 0.3 liter | CC(C)O | C3H8O
product | SR58611A | CCOC(=O)COC1=CC2=C(CC[C@@H](C2)NC[C@@H](C3=CC(=CC=C3)Cl)O)C=C1 | C22H26ClNO4
